US07176320B2
101 mg (0.30 mmol) of 1-((benzothiophene-3-yl)methyl)-5-methoxybenzimidazole-2-thiol were dissolved in 2 ml of dimethylformamide followed by the addition of 62 mg (0.45 mmol) of potassium carbonate and 53 mg (0.40 mmol) of 4-bromobutanoate ethyl ester and heating to 80° C. After 12 hours, the reaction solution was concentrated under reduced pressure and extracted with diethyl ether followed by washing twice with 10 ml of saturated brine and drying with magnesium sulfate. The solvent was then concentrated under reduced pressure and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to obtain 60 mg (0.136 mmol) of 4-(1-((benzothiophene-3-yl)methyl)-5-methoxybenzimidazole-2-ylthio)butanoate ethyl ester (yield: 45%).

reactant | 1-((benzothiophene-3-yl)methyl)-5-methoxybenzimidazole-2-thiol | 0.30 mmol, 101 mg | S1C=C(C2=C1C=CC=C2)CN2C(=NC1=C2C=CC(=C1)OC)S | C17H14N2OS2
reactant | potassium carbonate | 0.45 mmol, 62 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromobutanoate ethyl ester | 0.40 mmol, 53 mg | C(C)OC(CCCBr)=O | C6H11BrO2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-(1-((benzothiophene-3-yl)methyl)-5-methoxybenzimidazole-2-ylthio)butanoate ethyl ester | 0.136 mmol, 60 mg, yield: 45% | C(C)OC(CCCSC1=NC2=C(N1CC1=CSC3=C1C=CC=C3)C=CC(=C2)OC)=O | C23H24N2O3S2
